US08664220B2
Step 1: 1-(4′-{4-[Hydroxy-(6-phenyl-pyridin-2-yl)-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 58, Step 3, using 1-[4′-(4-formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-bromo-6-phenyl-pyridine.

reactant | 1-[4′-(4-formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C23H21NO4
reactant | 2-bromo-6-phenyl-pyridine | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
product | 1-(4′-{4-[Hydroxy-(6-phenyl-pyridin-2-yl)-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C1=NC(=CC=C1)C1=CC=CC=C1)O | C34H30N2O4
